data/rdb19/train.csv
rxn,smiles,ea
3042,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:9])[H:10].[H:8][C:18]([C:17]([C:16]([H:22])([H:23])[H:24])([H:25])[H:26])([H:19])[O:20][C:21]([H:27])([H:28])[H:29],26.18877973599592
1227,[C:14](=[C:15]([c:16]1[c:17]([H:25])[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]1[H:29])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:21]1([H:29])[C:16]([C:15](=[C:14]([H:22])[H:23])[H:24])=[C:17]([H:25])[C:18]([H:26])=[C:19]([H:27])[C:20]1[H:28])([H:11])[H:12])([H:8])([H:9])[H:10],20.06576491129817
1423,[C:10]([O:11][C:12](=[O:13])[C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3][C:17]([C:14]([C:12]([O:11][C:10]([H:20])([H:21])[H:22])=[O:13])([C:15]([H:23])([H:24])[H:25])[C:16]([H:26])([H:27])[H:28])([H:18])[H:19])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6],27.396402889396995
1303,[O:10]([O:11])[H:12].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:12])([H:7])[O:11][O:10])[H:6],22.182640013750643
5345,[C:17]([C:18]([C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:17]([C:18](=[C:19]([H:20])[c:21]1[c:22]([H:32])[c:23]([H:33])[c:24]([H:34])[c:25]([H:35])[c:26]1[H:36])[H:30])([H:27])([H:28])[H:29].[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[H:31])([H:9])[H:10],38.55359916557791
2060,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N+:1]([C:2]([O-:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])([H:7])[C:13]([C:12]([C:11]([H:18])([H:19])[H:20])([H:21])[H:22])([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26],39.09939587931149
697,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[N:7]([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32],21.074983325437643
51,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[O:16][C:15]([O:14][C:13]([C:12]([H:19])([H:20])[H:21])([H:22])[H:23])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:6])([H:7])[H:8],33.86053741443902
3637,[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22](=[O:23])[H:34])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([C:18]([C:19]([C:20]([H:30])([H:31])[H:32])([N:21]([C:22]=[O:23])[H:33])[H:29])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[H:34])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],17.955979153572116
1397,[C:10]([C:11]([C:12]([C:13]([H:20])([H:21])[H:22])[C:14]([H:23])([H:24])[H:25])([H:18])[H:19])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([C:11]([C:12]([C:13]([H:20])([H:21])[H:22])=[C:14]([H:24])[H:25])([H:18])[H:19])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:23])[H:6],31.99216106679524
2817,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:21]([C:20]([H:26])([H:27])[H:28])([O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:13])[H:14])([H:10])([H:11])[H:12],31.43193881289335
282,[C:4]([C:5]([C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[O:1][O:2][C:6]([C:5]([C:4]([H:8])([H:9])[H:10])([H:11])[H:12])([C:7]([H:3])([H:14])[H:15])[H:13],18.769132178422296
